US08648032B2
C) Phenyl 4-methylpentanoate
4-Methylpentanoyl chloride (3.0 g, 22.3 mmol) was added dropwise to phenol (2.1 g, 22.3 mmol). After 3 hours, H2O was added and the reaction mixture was extracted with Et2O. The organic phase was washed with NaHCO3, then brine to neutrality, then dried (Na2SO4), concentrated and bulb-to-bulb distilled to afford the title compound in 88% yield.

reactant | 4-Methylpentanoyl chloride | 22.3 mmol, 3.0 g | CC(CCC(=O)Cl)C | C6H11ClO
reactant | phenol | 22.3 mmol, 2.1 g | C1(=CC=CC=C1)O | C6H6O
solvent | H2O | O | H2O
product | Phenyl 4-methylpentanoate | 88% yield | CC(CCC(=O)OC1=CC=CC=C1)C | C12H16O2
